US06313149B1
N(3)-(2,2-Dimethyl-propyl)-2,5-dimethyl-2H-pyrazole-3,4-diamine
(2,5-Dimethyl-4-nitroso-2H-pyrazol-3-yl)-(2,2-dimethyl-propyl)-amine (3.44 g, 16.36 mmol), 400 mg of 10% Pd/C and 60 mL EtOAc were placed under a balloon of H2 and stirred at 23° C. After 4 h, the reaction mixture was filtered through Celite and evaporated to an orange oil. Flash chromatography on silica gel, eluting with CHCl3/MeOH (20/1), gave a yellow solid. Recrystallization from hot hexanes/EtOAc gave 2.86 g (14.57 mmol, an 89% yield) of the title compound as an off-white crystalline solid. mp: 65-69° C.; 1H NMR (300 MHz, CDCl3): δ1.00 (s, 9H), 1.65 (brs, 2H), 2.13 (s, 3H), 2.77 (brs, 2H), 2.89 (brs, 1H), 3.62 (s, 3H); IR (KBr, cm−1): 3347-3204brs, 2952s, 2903w, 1599m, 1528m, 1495m, 1477m, 1378m, 1316m; MS (ES) m/z (relative intensity): 197 (M++H, 100).

reactant | (2,5-Dimethyl-4-nitroso-2H-pyrazol-3-yl)-(2,2-dimethyl-propyl)-amine | 16.36 mmol, 3.44 g | CN1N=C(C(=C1NCC(C)(C)C)N=O)C | C10H18N4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | N(3)-(2,2-Dimethyl-propyl)-2,5-dimethyl-2H-pyrazole-3,4-diamine | 89% yield | CC(CNC=1N(N=C(C1N)C)C)(C)C | C10H20N4
